US07563805B2
Ethyl(3R,4R)-4-fluoromethyl-2-oxo-1-[(1R)-1-phenylethyl]pyrrolidine-3-carboxylate
To a solution of (4R)-4-fluoromethyl-2-oxo-1-[(1R)-1-phenylethyl]pyrrolidine (34.1 g, 154 mmol) and ethyl chloroformate (16.1 mL, 169 mmol) in tetrahydrofuran (500 mL), lithium bistrimethylsilyl amide (323 mL, 323 mmol, 1.0M solution in tetrahydrofuran) was added at 0° C., and the mixture was stirred at the same temperature for 30 minutes. Saturated aqueous solution of ammonium chloride (700 mL) was added to reaction mixture at the same temperature, and the mixture was extracted with ethyl acetate (700 mL×2). The organic layer was washed with saturated aqueous solution of sodium chloride (500 mL), and dried with anhydrous sodium sulfate. After filtration, the filtrate was concentrated under reduced pressure, and the residue was purified by silica gel column chromatography (elution with hexane:ethyl acetate, 5:1→2:3) to obtain 35.0 g (77%) of the title compound as a pale yellow oily substance.

reactant | (4R)-4-fluoromethyl-2-oxo-1-[(1R)-1-phenylethyl]pyrrolidine | 154 mmol, 34.1 g | FC[C@@H]1CC(N(C1)[C@H](C)C1=CC=CC=C1)=O | C13H16FNO
reactant | ethyl chloroformate | 169 mmol, 16.1 mL | ClC(=O)OCC | C3H5ClO2
reactant | lithium bistrimethylsilyl amide | 323 mmol, 1.0M, 323 mL | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | ammonium chloride | 700 mL | [Cl-].[NH4+]
solvent | tetrahydrofuran | 500 mL | O1CCCC1 | C4H8O
product | Ethyl(3R,4R)-4-fluoromethyl-2-oxo-1-[(1R)-1-phenylethyl]pyrrolidine-3-carboxylate | 35.0 g, 77% | FC[C@@H]1[C@H](C(N(C1)[C@H](C)C1=CC=CC=C1)=O)C(=O)OCC | C16H20FNO3
